US04916193
Trimethylene Carbonate/l-Lactide [90/10] Random Copolymer
In a 100 mL reaction flask fitted with mechanical stirrer and argon inlet were combined trimethylene carbonate (51.45 g, 504 mmol), l-lactide (8.07 g, 56 mmol), and 1,6-hexanediol (47 mg, 0.40 mmol). The flask was evacuated and filled with argon several times, immersed in an oil bath at 160° C. and stirring was initiated. After 10 mins., the polymerization catalyst, 25 μL of 0.20M solution of tin(II) octoate in toluene, was added via syringe. The mixture was stirred at 160° C. for 4 hrs., then the polymer was removed from the flask, dissolved in tetrahydrofuran (450 mL), and precipitated into methanol (1200 mL) in a blender. The precipitated polymer was stirred with additional methanol (400 mL) in the blender, filtered, and dried in the vacuum oven at 50° C. Yield: 43.8 g (74%). Weight average molecular weight=120,000 (polydispersity 1.5). Proton NMR (400 MHz) shows a final composition of 80% trimethylene carbonate units and 20% lactic acid units (theroetical 82% and 18%, respectively). This polymer is especially useful as a coating polymer.

reactant | trimethylene carbonate | 504 mmol, 51.45 g | C1(OCCCO1)=O | C4H6O3
reactant | l-lactide | 56 mmol, 8.07 g | C[C@H]1C(=O)O[C@H](C(=O)O1)C | C6H8O4
reactant | 1,6-hexanediol | 0.40 mmol, 47 mg | C(CCCCCO)O | C6H14O2
product | Trimethylene Carbonate l-Lactide | C1(OCCCO1)=O.C[C@H]1C(=O)O[C@H](C(=O)O1)C | InChI=1S/C6H8O4.C4H6O3/c1-3-5(7)10-4(2)6(8)9-3;5-4-6-2-1-3-7-4/h3-4H,1-2H3;1-3H2/t3-,4-;/m0./s1
